US05302582
30 g of anhydrous D-glucose were dissolved together with 3 g of isoleucyl-aspartic acid in 1.2 l of methanol, and 200 mg of NaHCO3 were added. The mixture was subsequently heated under reflux for 2 hours. The water which had formed was then removed by distillation with butanol, and the reaction mixture was diluted with methanol and again heated for 2 hours. After completion of the reaction, solvent was removed from the solution in vacuo, and the residue, in 300 ml of water, was applied to a 600 ml-capacity chromatography column (diameter 5 cm) packed with QAE-®Sephadex A-25. Whereas the excess glucose was located in the fore-run, it was possible to obtain selectively N-(1-deoxyfructopyranos-1-yl)-isoleucylaspartic acid using an acetic acid gradient (0 to 0.5 molar). These eluates from the column were collected and freeze-dried.

reactant | D-glucose | 30 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | isoleucyl-aspartic acid | 3 g | N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(=O)O)C(=O)O | C10H18N2O5
reactant | NaHCO3 | 200 mg | C(=O)(O)[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 1.2 l | CO | CH4O
product | N-(1-deoxyfructopyranos-1-yl)-isoleucylaspartic acid | C(C1(O)[C@@H](O)[C@H](O)[C@H](O)CO1)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(=O)O)C(=O)O | C16H28N2O10
